US08198285B2
Stage 3: 3-(4-bromophenyl)-N-(3-methoxypropyl)propan-1-amine
3-(4-bromophenyl)propyl methanesulfonate (418 g) and acetonitrile (2 L) were charged into reactor 1. 3-methoxypropylamine (305 g) and potassium carbonate (394 g) were added to reactor 1 and the mixture was warmed to 80-90° C. for 4-16 h. The mixture was analysed for completion (3-(4-bromophenyl)propyl methanesulfonate <0.5%). The reaction was cooled to 25° C. and the suspension was filtered to remove the white solids. The filtrate was concentrated to dryness on a rotary evaporator. The crude product from the rotary evaporator, MTBE (2 L) and water (1.5 L) were charged into reactor 2. After phase separation, the organic layer was collected and washed with 1N HCl (2 L) until pH=4-5. After phase separation, the aqueous phase was basified by 2.5N NaOH solution to pH=9-10 and the resulting aqueous solution was used in the next step without further treatment.

reactant | 3-(4-bromophenyl)propyl methanesulfonate | 418 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)Br | C10H13BrO3S
reactant | 3-methoxypropylamine | 305 g | COCCCN | C4H11NO
reactant | potassium carbonate | 394 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
product | 3-(4-bromophenyl)-N-(3-methoxypropyl)propan-1-amine | BrC1=CC=C(C=C1)CCCNCCCOC | C13H20BrNO
